US04334914
Synthesis of ethoxyethoxyethoxyethyl-2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoate (compound No. 10)
In 20 ml pyridine was dissolved 2.0 g (0.0167 mol) of triethylene glycol monoethyl ether, and while stirring at room temperature, 1.8 g (0.0049 mol) of 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride was added. After 4-hour stirring, the reaction fluid was poured into 200 ml of water, and extracted with benzene. The extract was washed with a dilute aqueous solution of caustic soda and then with dilute hydrochloric acid. By concentration 1.4 g (0.0031 mol) of the intended product was obtained as a viscous oily substance, yield 63.3%, nD28 1.5175.

reactant | triethylene glycol monoethyl ether | 0.0167 mol, 2.0 g | C(C)OCCOCCOCCO | C8H18O4
reactant | 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride | 0.0049 mol, 1.8 g | ClC1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H6Cl3F3O2
reactant | water | 200 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | ethoxyethoxyethoxyethyl-2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoate | 0.0031 mol, yield 63.3% | C(C)OCCOCCOCCOC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)Cl)=O | C22H23Cl2F3O6
